US05196586
50 mg of copper (I) chloride were dissolved in a mixture of 10 ml of isopropylamine and 15 ml of methanol in an atmosphere of argon, and 660 mg of 3-ethynylanisole were then added to the reaction mixture, followed by stirring at room temperature for 10 minutes. 1300 mg of 1-bromo-3-hydroxy-3-methyl-1-butyne were then dropwisely added to the solution over a time of about 2 hours, followed by stirring at room temperature for 2 hours. The solvent was then evaporated from the reaction mixture, and the residue was then neutralized and diluted by 1N hydrochloric acid, and subjected to extraction with dichloromethane three times. The organic layer was then dried over magnesium sulfate, and the solvent was then evaporated. The residue was then purified by silica-gel column chromatography using benzene as an eluent to obtain 800 mg of 5-hydroxy-5-methyl-1-(3-methoxyphenyl)hexane-1,3-diyne.

reactant | 3-ethynylanisole | 660 mg | C(#C)C=1C=C(C=CC1)OC | C9H8O
reactant | 1-bromo-3-hydroxy-3-methyl-1-butyne | 1300 mg | BrC#CC(C)(C)O | C5H7BrO
solvent | isopropylamine | 10 ml | C(C)(C)N | C3H9N
solvent | methanol | 15 ml | CO | CH4O
catalyst | copper (I) chloride | 50 mg | [Cu]Cl
product | 5-hydroxy-5-methyl-1-(3-methoxyphenyl)hexane-1,3-diyne | 800 mg | OC(C#CC#CC1=CC(=CC=C1)OC)(C)C | C14H14O2
